US08541575B2
A 1 M solution of hydrazine in THF (0.090 ml, 88.5 mmol) was added to 3-((E)-3-dimethylamino-2-pyridin-4-yl-acryloyl)benzonitrile (6.13 g, 22.1 mmol) and the mixture was stirred at 60° C. for 1 h. The product 3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-benzonitrile (4.89 g, 19.8 mmol, 90%) was isolated as a white solid by filtration from the reaction mixture.

reactant | hydrazine | NN | H4N2
reactant | THF | 88.5 mmol, 0.090 ml | C1CCOC1 | C4H8O
reactant | 3-((E)-3-dimethylamino-2-pyridin-4-yl-acryloyl)benzonitrile | 22.1 mmol, 6.13 g | CN(/C=C(/C(=O)C=1C=C(C#N)C=CC1)\C1=CC=NC=C1)C | C17H15N3O
product | 3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-benzonitrile | 19.8 mmol, 4.89 g, 90% | N1=CC=C(C=C1)C=1C(=NNC1)C=1C=C(C#N)C=CC1 | C15H10N4
